US08222246B2
6-(5-Hydroxymethyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-N-morpholin-4-yl-nicotinamide
To a solution of 6-(5-hydroxymethyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid (70 mg, 0.21 mmol) in DMF (5 mL) was added 4-aminomorpholine (31 mg, 0.30 mmol), N,N,N′,N′-tetramethyl-O-(benzotriazole-1-yl)-uronium tetrafluoroborate (96 mg, 0.30 mmol) and N,N-diisopropyl ethylamine (0.15 mL, 0.84 mmol). The reaction mixture was stirred overnight at room temperature. After evaporation of the solvent the residue was partitioned (ethyl acetate/aqueous saturated sodium bicarbonate solution) and the organic phase was dried (Na2SO4) and concentrated. Chromatography (silica, dichloromethane:methanol=100:0 to 97:3) afforded the title compound (41 mg, 47%) as a colorless oil. MS: m/e=412.2 [M+H]+.

reactant | 6-(5-hydroxymethyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.21 mmol, 70 mg | OCC1=C(C(=NO1)C1=NC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C16H13N3O5
reactant | 4-aminomorpholine | 0.30 mmol, 31 mg | NN1CCOCC1 | C4H10N2O
reactant | N,N,N′,N′-tetramethyl-O-(benzotriazole-1-yl)-uronium tetrafluoroborate | 0.30 mmol, 96 mg | F[B-](F)(F)F.C[N+](=C(ON1N=NC2=C1C=CC=C2)N(C)C)C
reactant | N,N-diisopropyl ethylamine | 0.84 mmol, 0.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-(5-Hydroxymethyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-N-morpholin-4-yl-nicotinamide | 41 mg, 47% | OCC1=C(C(=NO1)C1=NC=CC=C1)COC1=NC=C(C(=O)NN2CCOCC2)C=C1 | C20H21N5O5
